US05710138
b) (2,4 Dinitro-1-naphthylamino)-methanephosphonic acid diethyl ester
4 g of 2,4 dinitro-1-chloronaphthalene (15.84 mmol) is dissolved in 6.5 g of aminomethanephosphonic acid diethyl ester and 4 g of diphenylmethane and stirred for 72 hours at room temperature. The batch is diluted with methylene chloride, washed with 1N NaOH and washed twice with brine, dried and spun in. The crude product is chromatographed on silica gel with 3.5 liters of cyclohexane and ethyl acetate 1:1 as mobile solvent. 68% of product is obtained in several fractions as viscous oil. NMR (DMSO, delta in ppm): 1.15(6H,tr), 4(4H dq)4.25 (2H m), 7.8, 7.98, 8.9, 9.05 each 1H, 8.6 (2H,d)

reactant | 2,4 dinitro-1-chloronaphthalene | 15.84 mmol, 4 g | [N+](=O)([O-])C1=C(C2=CC=CC=C2C(=C1)[N+](=O)[O-])Cl | C10H5ClN2O4
reactant | diphenylmethane | 4 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | aminomethanephosphonic acid diethyl ester | 6.5 g | C(C)OP(OCC)(=O)CN | C5H14NO3P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2,4 Dinitro-1-naphthylamino)-methanephosphonic acid diethyl ester | 68% | C(C)OP(OCC)(=O)CNC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])[N+](=O)[O-] | C15H18N3O7P
